US07829580B2
(b) (E)-3-{[2-(t-Butoxycarbonylamino)-1,3-thiazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one
Following a procedure similar to that described in Example 132-(c), 2-(t-butoxycarbonylamino)-1,3-thiazole-4-carbaldehyde (3.2 g) was subjected to the reaction with 1-(triphenylmethyl)piperidin-4-one (4.8 g) and pyrrolidine (0.24 ml), and the crude product was purified by silica gel chromatography using hexane, ethyl acetate, and dichloromethane (1:3:1 to 1:5:1) as eluents to afford the title compound (2.8 g, yield: 36%) as an oil.

reactant | 2-(t-butoxycarbonylamino)-1,3-thiazole-4-carbaldehyde | 3.2 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)C=O | C9H12N2O3S
reactant | 1-(triphenylmethyl)piperidin-4-one | 4.8 g | C1(=CC=CC=C1)C(N1CCC(CC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23NO
reactant | pyrrolidine | 0.24 ml | N1CCCC1 | C4H9N
product | (E)-3-{[2-(t-Butoxycarbonylamino)-1,3-thiazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one | 2.8 g, yield: 36% | C(C)(C)(C)OC(=O)NC=1SC=C(N1)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H33N3O3S
